US08217028B2
To a suspension of ethyl 3-[5-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-7-fluoro-1H-indol-2-yl]propanoate (D164) (240 mg) in isopropanol (15 mL) was added 20% sodium hydroxide (509 mg) solution, then the reaction mixture was stirred at room temperature overnight. The mixture was acidified with HCl (2 M) to pH 4. The solvent of the reaction was removed by evaporation. The residue was dissolved in DMF (5 mL), the precipitation was filtered then the filtrate was purified by Mass Directed Auto Prep to afford 3-[5-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-7-fluoro-1H-indol-2-yl]propanoic acid (E112) (75.3 mg) as a white solid. δH (DMSO-d6, 400 MHz): 1.30 (6H, d), 2.65 (2H, t), 2.93 (2H, t), 4.8 (1H, m), 6.38 (1H, s), 7.36 (1H, d), 7.44 (1H, d), 8.01 (1H, s), 8.05 (1H, d), 8.11 (1H, s), 11.76 (1H, s), 12.20 (1H, s); δF (DMSO-d6, 376 MHz): −132.6; MS (ES): C22H19ClFN3O4 requires 443; found 444.2 (M+H+).

reactant | ethyl 3-[5-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-7-fluoro-1H-indol-2-yl]propanoate | 240 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=C2C=C(NC2=C(C1)F)CCC(=O)OCC | C24H23ClFN3O4
reactant | sodium hydroxide | 509 mg | [OH-].[Na+]
reactant | HCl | 2 M | Cl | ClH
solvent | isopropanol | 15 mL | C(C)(C)O | C3H8O
product | 3-[5-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-7-fluoro-1H-indol-2-yl]propanoic acid | 75.3 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=C2C=C(NC2=C(C1)F)CCC(=O)O | C22H19ClFN3O4
